US05880140
Step A: 5-(Pyrid-2-yl)-2-aminopyrimidine
A mixture of 2-amino-5-bromopyrimidine (0.299 g, 1.72 mmol), 2-pyridylboronic acid (1.57 g, 12.79 mmol), barium hydroxide (0.813 mg, 2.58 mmol), DME (8 mL) and water (1.5 mL) is purged with dry argon. Tetrakis(triphenylphosphine) palladium(0) (99.0 mg, 0.086 inmol) is added, and the resultant solution is stirred at 80° C. for 4 hours. The solvents are evaporated in vacuo, and the residue is partitioned between EtOAc and water. The aqueous extract is separated, and extracted with EtOAc. The organic extracts are combined, washed with sat. aq. NaHCO3 and 5% aq. Na2S2O3, dried, (Na2SO4) and the solvent is evaporated in vacuo. The residue is purified by chromatography to afford the title compound.

reactant | 2-amino-5-bromopyrimidine | 1.72 mmol, 0.299 g | NC1=NC=C(C=N1)Br | C4H4BrN3
reactant | 2-pyridylboronic acid | 12.79 mmol, 1.57 g | N1=C(C=CC=C1)B(O)O | C5H6BNO2
reactant | barium hydroxide | 2.58 mmol, 0.813 mg | [OH-].[Ba+2].[OH-]
reactant | DME | 8 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
product | 5-(Pyrid-2-yl)-2-aminopyrimidine | N1=C(C=CC=C1)C=1C=NC(=NC1)N | C9H8N4
